US06518264B2
A mixture of 4.5 g of 1-[bis(4-chlorophenyl)methyl]-3-[(3-cyanophenyl)(methylsulfonyl)methylene]azetidine in 50 cm3 of acetic acid and 50 cm3 of concentrated hydrochloric acid (d=1.18) is heated at 50° C. for 20 hours. The reaction medium is cooled to room temperature and concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is taken up in 100 cm3 of ethanol and then the solution is concentrated to dryness under reduced pressure (2.7 kPa). The residue is precipitated in 60 cm3 of ethyl ether. The solid obtained is purified by chromatography on a silica gel column (particle size 0.04-0.06 mm, diameter 25 cm, height 40 cm) at a nitrogen pressure of 0.5 bar with dichloromethane and then a dichloromethane and ethanol mixture (99.5/0.5 by volume) as eluent and collecting 30 cm3 fractions. Fractions 35 to 46 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is crystallized from 15 cm3 of ethyl ether. 0.2 g of 1-[bis(4-chlorophenyl)methyl]-3-[(3-carbamoylphenyl)(methylsulfonyl)methylene]azetidine is obtained in the form of a solid melting at 192° C. [NMR spectrum in DMSO-d6, T=300K, δ in ppm (300 MHz): 2.95 (3H, s, SCH3), 3.80 (2H, s, NCH2), 4.20 (2H, s, NCH2), 4.80 (1H, s, NCH), 7.35 (4H, d, J=7 Hz, 4CH arom.), 7.45 (5H, d, J=7 Hz, 4CH arom. and 2 CONH2), 7.50 (2H, m, 2CH arom.), 7.85 (2H, m, 2CH arom.)].

reactant | 1-[bis(4-chlorophenyl)methyl]-3-[(3-cyanophenyl)(methylsulfonyl)methylene]azetidine | 4.5 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC=C1)C#N)C1=CC=C(C=C1)Cl | C25H20Cl2N2O2S
reactant | acetic acid | 50 cm3 | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 50 cm3 | Cl | ClH
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | 1-[bis(4-chlorophenyl)methyl]-3-[(3-carbamoylphenyl)(methylsulfonyl)methylene]azetidine | 0.2 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC=C1)C(N)=O)C1=CC=C(C=C1)Cl | C25H22Cl2N2O3S
